US05831125
Synthesis of 2-octadecanoylaminohexadecane-1,3-diol
Into a 100 ml four-neck flask equipped with a stirrer, dropping funnel and thermometer were placed 50 mg of commercially available 85% potassium hydroxide, 1.5 g (5 mmol) of 2-aminohexadecane-1,3-diol and 15 ml of butanol. The mixture was heated while stirring to 90° C. for 30 minutes. 2.24 g (7.5 mmol) of methyl stearate (methyl octadecanoate) in 5 ml of a butanol solution was then added dropwise while introducing nitrogen into the reaction system. After stirring at 90° C. for 2 hours, the product removed from the reactor was cooled and the resulting crystals were collected. The crude crystals were washed with methanol and dried. The yield of the resulting 2-octadecanoylaminohexadecane-1,3-diol was 87.2%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-aminohexadecane-1,3-diol | 5 mmol, 1.5 g | NC(CO)C(CCCCCCCCCCCCC)O | C16H35NO2
reactant | methyl stearate (methyl octadecanoate) | 7.5 mmol, 2.24 g | CC(C(=O)O)CCCCCCCCCCCCCCCC.C(CCCCCCCCCCCCCCCCC)(=O)OC | 2C19H38O2
solvent | butanol | 5 ml | C(CCC)O | C4H10O
solvent | butanol | 15 ml | C(CCC)O | C4H10O
product | 2-octadecanoylaminohexadecane-1,3-diol | C(CCCCCCCCCCCCCCCCC)(=O)NC(CO)C(CCCCCCCCCCCCC)O | C34H69NO3
